US07193108B2
Process 2 4-(2,6-dichlorophenyl)-4-hydroxy-2-[4-(1-methyl-2,4-dioxo-1,2,3,4-tetrahydroquinazoline-3-yl)benzyl]butanoic acid
The mixture of 7 mg of 3-[4-[[5-(2,6-dichlorophenyl)-2-oxotetrahydrofuran-3-yl]methyl]phenyl]-1-methylquinazoline-2,4-dione, 0.6 mg of lithium hydroxide-monohydrate and 5 ml of tetrahydrofuran was stirred. After removing a solvent, the residue was purified by reverse phase HPLC to obtain the subject compound.

reactant | 3-[4-[[5-(2,6-dichlorophenyl)-2-oxotetrahydrofuran-3-yl]methyl]phenyl]-1-methylquinazoline-2,4-dione | 7 mg | ClC1=C(C(=CC=C1)Cl)C1CC(C(O1)=O)CC1=CC=C(C=C1)N1C(N(C2=CC=CC=C2C1=O)C)=O | C26H20Cl2N2O4
reactant | lithium hydroxide-monohydrate | 0.6 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2,6-dichlorophenyl)-4-hydroxy-2-[4-(1-methyl-2,4-dioxo-1,2,3,4-tetrahydroquinazoline-3-yl)benzyl]butanoic acid | ClC1=C(C(=CC=C1)Cl)C(CC(C(=O)O)CC1=CC=C(C=C1)N1C(N(C2=CC=CC=C2C1=O)C)=O)O | C26H22Cl2N2O5
